US03994968
2-hydroxynaphthalene (1 g.) is dissolved in boiling acetic acid (30 ml.), and when the solution temperature reaches 45° C, a molecular equivalent amount of concentrated nitric acid is slowly added. After standing overnight at room temperature, the reaction mixture is mixed with water. The precipitated solids are filtered, washed with water, and purified by chromatography on alumina, to yield 1-nitro-2-hydroxynaphthalene.

reactant | 2-hydroxynaphthalene | 1 g | OC1=CC2=CC=CC=C2C=C1 | C10H8O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 1-nitro-2-hydroxynaphthalene | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)O | C10H7NO3
